US07585885B2
4-Dipropylcarbamoyl-pyridine-2-carboxylic acid
Heat a mixture of 2-chloro-N,N-dipropylisonicotinamide (0.91 g, 3.8 mmol), palladium (II) acetate (13.2 mg), triethylamine (1.0 mL, 7.1 mmol), 1,1′-bis(3,5-dimethylphenylphosphino)ferrocene (161 mg, 0.64 mmol), DMF (35 mL) and water (5 mL) at 110° C. under an atmosphere of carbon monoxide (200 psi) overnight. Filter the reaction, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 methanol:chloroform) to give the title compound (486 mg, 51%).

reactant | 2-chloro-N,N-dipropylisonicotinamide | 3.8 mmol, 0.91 g | ClC=1C=C(C(=O)N(CCC)CCC)C=CN1 | C12H17ClN2O
reactant | triethylamine | 7.1 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
reactant | water | 5 mL | O | H2O
catalyst | palladium (II) acetate | 13.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(3,5-dimethylphenylphosphino)ferrocene | 0.64 mmol, 161 mg | CC=1C=C(C=C(C1)C)P[C-]1C=CC=C1.[C-]1(C=CC=C1)PC1=CC(=CC(=C1)C)C.[Fe+2]
product | 4-Dipropylcarbamoyl-pyridine-2-carboxylic acid | 486 mg, 51% | C(CC)N(C(=O)C1=CC(=NC=C1)C(=O)O)CCC | C13H18N2O3
